US09278944B2
To a suspension of 1-indanone-6-carboxylic acid (1.76 g) in N,N-dimethylformamide (50 mL) was added carbonyldiimidazole (3.24 g), and the mixture was stirred at room temperature for 1 hour. Thereto was added a solution of 2-methoxyethylamine (3.76 g) in dichloromethane (50 mL) under ice cooling, and the mixture was stirred at room temperature for 4 hours. The reaction solution was concentrated under reduced pressure, and then dissolved in chloroform. The organic layer was washed with aqueous saturated sodium hydrogen carbonate solution, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was dissolved in tetrahydrofuran (20 mL), and then thereto was added 1-normal hydrochloric acid (20 mL), and the mixture was stirred at room temperature for 12 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was triturated with isopropyl ether-ethyl acetate (2:1) to give N-(2-methoxyethyl)-3-oxoindan-5-carboxamide [REx(13-1)] (1.87 g) as a brown powder.

reactant | 1-indanone-6-carboxylic acid | 1.76 g | C1CC(=O)C2=C1C=CC(=C2)C(=O)O | C10H8O3
reactant | carbonyldiimidazole | 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-methoxyethylamine | 3.76 g | COCCN | C3H9NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(2-methoxyethyl)-3-oxoindan-5-carboxamide | 1.87 g | COCCNC(=O)C=1C=C2C(CCC2=CC1)=O | C13H15NO3
